US08791132B2
To a solution of 5-isoquinolin-5-ylethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (80 mg, 0.228 mmol) in MeOH (5 mL) were added 10% dry Pd—C (80 mg) and ammonium formate (72 mg, 1.14 mmol). The reaction mixture was refluxed for 4 h and filtered through Celite. The filtrate was concentrated under reduced pressure to afford crude product, which was purified by reverse phase HPLC to yield 20 mg of 2,8-dimethyl-5-[2-(1,2,3,4-tetrahydro-isoquinolin-5-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.21 (d, 1H), 7.18 (m, 2H), 7.1 (d, 1H), 7.0 (d, 1H), 6.93 (d, 1H), 4.7 (d, 1H), 4.2-4.4 (m, 5H), 3.7 (m, 1H), 3.2 (m, 3H), 3.08 (t, 2H), 3.02 (s, 3H), 2.83 (m, 1H), 2.6-2.8 (m, 3H), 2.4 (s, 3H).

reactant | 5-isoquinolin-5-ylethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.228 mmol, 80 mg | C1=NC=CC2=C(C=CC=C12)C#CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C24H21N3
reactant | ammonium formate | 1.14 mmol, 72 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | 2,8-dimethyl-5-[2-(1,2,3,4-tetrahydro-isoquinolin-5-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 20 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=C3CCNCC3=CC=C2)CC1 | C24H29N3
